US04097504
Step B: Preparation of Ethyl 8-Glycoloyl-12-acetoxyheptadecanoate
A clear, yellow solution of ethyl 8-diazoacetyl-12-acetoxyheptadecanoate (8.4 g., 0.02 mole) in dioxane (50 ml.) is vigorously stirred at 20° and treated with 2N sulfuric acid (30 ml.) added dropwise over 5 minutes. The resulting turbid solution is warmed to and maintained at 65° for 30 minutes. The reaction solution is cooled to 20°, diluted with water to a total volume of one liter and extracted with ether (5 × 200 ml.). The organic extract is washed with water (2 × 200 ml.), 5% aqueous sodium bicarbonate (200 ml.), water (200 ml.), and saturated brine (2 × 200 ml.), dried over sodium sulfate and filtered. Evaporation (in vacuo at 40°-65°) of the filtrate gives the title compound as a deep yellow oil (7.9 g., 96%), pmr (CDCl3)δ0.86 (3H,t), 1.28 (27H,e), 2.0 (3H,s), 2.25 (3H,t), 3.36 (H,b), 4.10 (2H,q), 4.21 (2H,s) and 4.84 (H,b).

reactant | ethyl 8-diazoacetyl-12-acetoxyheptadecanoate | 0.02 mole, 8.4 g | [N+](=[N-])=CC(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C23H40N2O5
reactant | sulfuric acid | 2N, 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | Ethyl 8-Glycoloyl-12-acetoxyheptadecanoate | 7.9 g, 96% | C(CO)(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C23H42O6
